US04855497
Synthesis of 3-(isopropylaminoethylamino)-2', 6'-dimethylpropionanilide (Compound No. 4)
Three hundred milliliters of a toluene solution of a mixture of N-isopropyl-1,2-ethylenediamine (20.0 g), 3-chloro-2',6'-dimethylpropionanilide (13.9 g) and triethylamine (10 ml) is treated as in Example 1 to provide a pale yellow powder. Recrystallization from n-hexane provides a colorless needle in an amount of 11.5 g (yield: 63.2%). m.p. 69.5° C.

reactant | toluene | Three hundred milliliters | C1(=CC=CC=C1)C | C7H8
reactant | N-isopropyl-1,2-ethylenediamine | 20.0 g | C(C)(C)NCCN | C5H14N2
reactant | 3-chloro-2',6'-dimethylpropionanilide | 13.9 g | ClCCC(=O)NC1=C(C=CC=C1C)C | C11H14ClNO
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 3-(isopropylaminoethylamino)-2', 6'-dimethylpropionanilide | yield: 63.2% | C(C)(C)NCCNCCC(=O)NC1=C(C=CC=C1C)C | C16H27N3O
